Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Epistaxis

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is a ___ y/o M with PMHx of HTN, HLD, hypothyroidism, stage IV 
colon CA currently C11 FOLFOX, as well as recent PE ___ on 
coumadin, who is admitted with epistaxis in the setting of 
supratherapeutic INR.

Pt reports that epistaxis initially began yesterday evening 
after blowing his nose. He presented to ___ for scheduled chemo 
and was referred to their urgent care clinic. There, physician 
uses silver nitrate to cauterize the bleeding. He then had a 
small gauze pack placed in the left nares. However, while at 
___, the patient became diaphoretic, dizzy, and had 
a systolic blood pressure of 70. He was also noted to have a 
hemoglobin drop from 11 to 9. He was given IV fluids and 
transferred to the emergency department. He did not have his 
usual chemotherapy. He does report some dizziness and 
lightheadedness at that time, but he had not eaten or drank 
anything since this morning.

In the ED, the inital plan was to obs overnight without ENT 
consult given that bleeding had stopped. However, the patient 
developed recurrent bleeding in the ED, spitting up bright red 
blood and clots. His Hct was also noted to drop to 25.5. ENT 
consulted and evaluated the patient in the ED, patient given Vit 
K. FFP ordered but not yet given. 

ED Course:
Initial VS: 98.0 110 ___ 100% RA Pain ___
Labs significant for Hct 27.4 -> 25.5. INR 8.4.
Imaging: none
Meds given: Vitamin K 10 mg IV, 3L NS
VS prior to transfer: 97 136/78 16 97% RA Pain ___

On arrival to the floor, the patient reports spitting up an 
additional small amount of blood en route across the street. He 
also reports a dark stool. Denies any current lightheadedness, 
dizziness, chest pain, heart palpitations.

ROS: As above. Denies headache, lightheadedness, dizziness, sore 
throat, sinus congestion, chest pain, heart palpitations, 
shortness of breath, cough, nausea, vomiting, constipation, 
urinary symptoms, muscle or joint pains, focal numbness or 
tingling, skin rash. The remainder of the ROS was negative.

 
Past Medical History:
HTN
Hypothyroid
HLD
Obesity
Allergic rhinitis
Pulmonary embolism
Stage IV colon cancer, currently C11 FOLFOX 

 
Social History:
___
Family History:
He has one brother, age ___ and one sister age ___. He is unsure 
if they have had colonoscopies. He has not discussed his own 
diagnosis with them. His father died at age ___ of "liver 
cancer", does not know any further details. His mother alive at 
age ___. He has no children.
 
Physical Exam:
PHYSICAL EXAM: 
VS - 99.5 138/79 94 16 100%RA
GEN - Alert, NAD
HEENT - NC/AT, OP clear, no visible epistaxis, MMM
NECK - Supple, no JVD
CV - RRR, no m/r/g
RESP - CTA B
ABD - S/ND, BS present, healed midline incision, mild diffuse 
TTP without rebound or guarding
EXT - Trace BLE edema, no calf tenderness
SKIN - No apparent rashes
NEURO - Non-focal
PSYCH - Calm, appropriate

 
Pertinent Results:
___ 03:46PM BLOOD WBC-2.3* RBC-2.75* Hgb-8.0* Hct-25.0* 
MCV-91 MCH-29.2 MCHC-32.2 RDW-17.8* Plt ___
___ 04:35AM BLOOD WBC-2.7* RBC-2.54* Hgb-7.2* Hct-23.6* 
MCV-93 MCH-28.5 MCHC-30.7* RDW-18.1* Plt ___
___ 04:35AM BLOOD ___ PTT-39.6* ___
___ 02:44PM BLOOD ___ PTT-58.2* ___
___ 04:35AM BLOOD Glucose-89 UreaN-25* Creat-0.8 Na-144 
K-3.7 Cl-112* HCO3-26 AnGap-10
___ 04:35AM BLOOD Calcium-7.8* Phos-2.1* Mg-1.___SSESSMENT & PLAN: ___ y/o M with PMHx of HTN, HLD, 
hypothyroidism, stage IV colon CA currently C11 FOLFOX, as well 
as recent PE ___ on coumadin, who is admitted with epistaxis 
in the setting of supratherapeutic INR

# Epistaxis / Acute Blood Loss Anemia / Coagulopathy: Pt 
presenting with epistaxis in the setting of supratherapeutic 
INR. S/p silver nitrate and surgicel. Seen by ENT in the ED. 
Epistaxis largely resolved at this point. Pt is now s/p 10 mg IV 
vitamin K. 2 u FFP given.  Hgb down to 7.2 and he received 1 u 
RBC on ___ as he dropped significantly and may require ongoing 
anticoagulation.  His post transfusion hgb 8.  Instructions re: 
packing in d/c instructions: absorbable, does not need 
prophylacitc antibiotics, will see ent for f/u in 2 weeks.  INR 
on ___.   Patient will get INR checked at ___ 
clinic on ___ and if INR<2 can resume coumadin but at lower 
dose (avoid doses of 7.5-10mg) to keep INR close to ___ rather 
than higher.  Not sure why his INR rose so quickly: no recent 
antibiotics or diet changes.  He did describe some dark stools 
but in context of swallowing some of the blood from epistaxis.   


# H/o PE: see above, plan to resume coumadin without bridge once 
inr checked at ___ clinic on ___.
# Stage IV Colon CA: C11 FOLFOX. Followed by Dr. ___ at ___.

# HTN:
- resume anti-htn on discharge
# Hypothyroidism:
continue levothyroxine

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Lorazepam 0.5 mg PO Q6H:PRN nausea 
3. Multivitamins 1 TAB PO DAILY 
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. Prochlorperazine 10 mg PO Q6H:PRN nausea 
6. Simvastatin 20 mg PO DAILY 
7. Warfarin 7.5 mg PO DAILY16 
8. lisinopril-hydrochlorothiazide ___ mg oral daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
epistaxis
blood loss anemia acute
coagulopathy 
chronic pulm emboli and colon cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you were hospitalized for a serious nose bleed that required 
packing of your nose and treatment with blood transfusion, 
reversal of your inr with vitamin k and plasma

The nasal packing placed today will dissolve on its own in ___
days. The patient does not require antibiotics for this packing.
Do not be alarmed if nasal secretions are brown tinged as this 
is
due to discoloration from this dressing.
- Continue epistaxis precautions x2 weeks. (Avoid nose blowing.
Sneeze with the mouth open. Avoid vigorous activity, straining,
or heavy lifting.)
___
If the patient redevelops a nosebleed: 
1. Spray three sprays of Afrin in each nostril. 2. Apply 
pressure
to the outside of the nose (over the flexible end of the nose)
for 30 minutes and lean forward so that the patient does not
swallow blood.  Hold constant, firm pressure for the entire
duration without "peeking" to see if it has stopped as this will
likely result in repeated bleeding.  If the patient continues to
have a nose bleed or if the bleeding is very rapid or excessive,
please have patient present to the nearest emergency department
emergently for medical evaluation or if the patient is
hospitalized page Otolaryngology. 
___
In order to decrease the risk for future nosebleeds, we 
recommend
the following strategies:
- Avoid aspirin or other similar medications, unless medically
necessary
- If the patient is on Coumadin or other blood thinners, we
recommend tight management to avoid excessive blood thinning
which can cause recurrent bleeding. This patient will likely
require reversal of his INR given the extreme elevation.
- If the patient has elevated blood pressure, keeping the blood
pressure controlled will decrease the risk for future bleeds.
- Avoid trauma to the nose.  This includes irritation from
exploring digits (nose picking) and excessive nose blowing.  If
you sneeze or cough, do so with a widely open mouth to avoid
excessive pressure buildup in your nose.
- - Maintain nasal moisture by using a room humidifier at night,
especially during the dry winter months will keep the nose moist
and less susceptible to bleeding. Use nasal saline mist, two
sprays to each nostril at least four times daily. 

 
Followup Instructions:
___